* Propellant Tank Settling Analog — Ranger 1 / Mission 1.26
* SPICE simulation of an RC network modeling propellant settling dynamics
* 
* The circuit models the Agena A propellant tank as an RC network where:
*   - Voltage = propellant height (settled position)
*   - Current = flow rate toward feed line
*   - R_baffle = baffle resistance to flow
*   - C_tank = tank volume
*   - V_ullage = ullage motor thrust (small impulse settling propellant)
*
* When V_ullage is applied (brief pulse), the propellant settles (voltage rises).
* When V_ullage is zero (coast phase), the propellant drifts (voltage decays).
*
* The Agena A had insufficient ullage (V_ullage too brief, R_baffle too high).
* The Agena B had improved baffles (lower R_baffle) and stronger ullage.

.title Ranger 1 Agena A Propellant Settling Model

* Supply
V_power 1 0 DC 5V

* Ullage motor pulse (brief, insufficient for Agena A)
V_ullage_A ullage_a 0 PULSE(0 3 0.1s 0.01s 0.01s 0.5s 10s)

* Tank model — Agena A (high baffle resistance, small ullage)
R_baffle_A ullage_a tank_a 10K
C_tank_A tank_a 0 100uF
R_leak_A tank_a 0 50K  ; propellant drifting away from feed line

* Tank model — Agena B (improved baffles, stronger ullage)
V_ullage_B ullage_b 0 PULSE(0 5 0.1s 0.01s 0.01s 2s 10s)
R_baffle_B ullage_b tank_b 2K
C_tank_B tank_b 0 100uF
R_leak_B tank_b 0 50K

* Restart threshold detector (comparator)
* If tank voltage > 3V (settled), engine restarts
* If tank voltage < 3V (unsettled), engine fails
V_threshold threshold 0 DC 3V

.tran 0.01s 20s

.control
run
plot v(tank_a) v(tank_b) v(threshold) title "Propellant Settling: Agena A vs Agena B"
.endc

.end
